US04777252
(B) 1,4-Dihydro-6,7-dimethoxy-4-oxo-3-quinolinecarboxylic acid, ethyl ester
[[(3,4-Dimethoxyphenyl)amino]methylene]malonic acid, diethyl ester (60 g, 188.5 mmol) was added to hot diphenylether (bath temperature 275° C.) under stirring. After stirring for 15 minutes, the mixture was allowed to cool to 50° C. The resulting crystals were collected by suction, washed thoroughly with ether and dried in vacuo to yield 34.1 g of the title compound having a melting point of 297° C.

reactant | [[(3,4-Dimethoxyphenyl)amino]methylene]malonic acid, diethyl ester | 188.5 mmol, 60 g | COC=1C=C(C=CC1OC)NC=C(C(=O)OCC)C(=O)OCC | C16H21NO6
reactant | diphenylether | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
product | 1,4-Dihydro-6,7-dimethoxy-4-oxo-3-quinolinecarboxylic acid, ethyl ester | 34.1 g | COC=1C=C2C(C(=CNC2=CC1OC)C(=O)OCC)=O | C14H15NO5
